US05334225
To 30 ml of methanol, there were added 1.0 g (6.4 mmol) of 2-amino-4-chloro-5-methylphenol and 0.71 g (7.0 mmol) of acetic anhydride and stirred at room temperature for 30 minutes. To this solution, there was added 60 ml of water. The crystals thus precipitated were filtered and recrystallized from methanol. Thus 0.89 g (4.5 mmol) of N-(5-chloro-2-hydroxy-4-methylphenyl)acetamide was obtained as pale brown crystals. The yield was 70%.

reactant | methanol | 30 ml | CO | CH4O
reactant | 2-amino-4-chloro-5-methylphenol | 6.4 mmol, 1.0 g | NC1=C(C=C(C(=C1)Cl)C)O | C7H8ClNO
reactant | acetic anhydride | 7.0 mmol, 0.71 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 60 ml | O | H2O
product | N-(5-chloro-2-hydroxy-4-methylphenyl)acetamide | 4.5 mmol, 0.89 g, yield was 70% | ClC=1C(=CC(=C(C1)NC(C)=O)O)C | C9H10ClNO2
